Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
magnesium citrate
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___: 
PROCEDURES PERFORMED:
1.  Realtime ultrasound-guided access to bilateral common
femoral arteries.
2.  Abdominal aortogram.
3.  Selective catheterization of abdominal aorta.
4.  Endovascular abdominal aortic aneurysm repair using a 25
mm Endurant 2S ___ graft.

 
History of Present Illness:
Mr. ___ is a ___ year old male active smoker with known 4.5cm 
AAA presenting
on ___ with persistent epigastric abdominal pain. He had 
been in his
usual state of health until ___ days ago when he started to
developed intermitted epigastric abdominal pain. He notes that
this pain is different that his usual GERD symptoms which are
associated with large meals. Around 4pm on the day of admission, 
the epigastric
pain worsened and became persistent so he came to the ED for
further evaluation. Denies fevers, chills, sick contacts,
diarrhea, or lightheadness. CTA abd/pelvis was obtained which
showed a stable 4.2cm AAA and right common iliac dissection.
Vascular surgery was consulted for further evaluation. 
 
Past Medical History:
AAA, GERD, HLD, diverticulosis
 
Social History:
___
Family History:
Mother - breast cancer, DM2, kidney stones
Father - HLD, colon polyps
Brother - cholelithiasis, BPH
Aunt - DM2
Uncle - pancreatic cancer
 
Physical Exam:
Admission Physical Exam:
Vitals: 96.9  99  178/105  18  99%RA
GEN: AOx3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, pulsatile midline abdominal mass tender to palpation
Ext: No ___ edema, ___ warm and well perfused
Pulses: R: p/p/p/p  L: p/p/p/p

Discharge Physical Exam:
General: no apparent distress, calm, cooperative
CV: RRR
Pulm: nonlabored breathing on room air
Abd: very mildly tender to palpation throughout, but centered in 
epigastric area; no pulsatile mass appreciated
Ext: Bilaterally, DP and ___ pulses palpated 2+

 
Pertinent Results:
___ 05:20AM   GLUCOSE-122* UREA N-11 CREAT-0.9 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-23 ANION GAP-14
___ 05:20AM   CALCIUM-9.1 PHOSPHATE-2.9 MAGNESIUM-1.9
___ 05:20AM   WBC-10.4* RBC-4.67 HGB-14.5 HCT-42.4 MCV-91 
MCH-31.0 MCHC-34.2 RDW-12.5 RDWSD-41.7
___ 05:20AM   PLT COUNT-227
___ 10:50PM   GLUCOSE-124* UREA N-13 CREAT-0.9 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 10:50PM   estGFR-Using this
___ 10:50PM URINE  HOURS-RANDOM
___ 10:50PM URINE  UHOLD-HOLD
___ 10:50PM   WBC-12.0* RBC-4.88 HGB-15.3 HCT-44.5 MCV-91 
MCH-31.4 MCHC-34.4 RDW-12.4 RDWSD-41.1
___ 10:50PM   NEUTS-60.1 ___ MONOS-7.5 EOS-2.6 
BASOS-1.1* IM ___ AbsNeut-7.23*# AbsLymp-3.43 AbsMono-0.90* 
AbsEos-0.31 AbsBaso-0.13*
___ 10:50PM   PLT COUNT-258
___ 10:50PM   ___ PTT-32.1 ___
___ 10:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:50PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:50PM URINE  RBC-6* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:50PM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
Mr. ___ is a ___ year old male smoker with known 4.5 abdominal 
aortic aneurysm who presented with abdominal pain who was 
admitted to the ___ on 
___. The patient was taken to the endovascular suite and 
underwent  now status post endovascular aortic aneurysm repair 
complicated by Type II vs III vs IV endoleak. For details of the 
procedure, please see the surgeon's operative note. The patient 
tolerated the procedure well without complications and was 
brought to the post-anesthesia care unit in stable condition. 
After a brief stay, the patient was transferred to the vascular 
surgery floor where he remained through the rest of the 
hospitalization. 

Post-operatively, he did well without any groin swelling. He was 
able to tolerate a regular diet, get out of bed and ambulate 
without assistance, void without issues, and pain was controlled 
on oral medications alone. A repeat CTA showed no definite 
evidence of endoleak. Of note, it showed a 1.2cm right adrenal 
nodule, for which dedicated adrenal CT is recommended in 6 
months, which was communicated to the patient and his PCP. He 
was deemed ready for discharge, and was given the appropriate 
discharge and follow-up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin EC 81 mg PO DAILY  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Do not drive or drink alcohol while taking.  
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic infrarenal abdominal
aortic aneurysm, type 2 versus type 3 and
unlikely a type 4 endoleak

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
MEDICATIONS:
• Take Aspirin 81mg (enteric coated) once daily 
• Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT AT HOME:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and go up and down stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

 
Followup Instructions:
___